US04025540
0.4 mole of stearic acid were heated to boiling (about 113° C.) under reflux with 280 grams of toluene and 0.29 gram of NaOH (water free) and, in the course of 20 minutes, 31.2 grams of glycidol dropped in. After a further 5 hours at this temperature, the glycidol was 99% reacted and the reaction ended. After working as in Example 1, there were obtained 123.5 grams (86%) of monostearin having the following properties:

reactant | stearic acid | 0.4 mole | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | glycidol | 31.2 grams | C1C(O1)CO | C3H6O2
catalyst | NaOH | 0.29 gram | [OH-].[Na+]
solvent | toluene | 280 grams | C1(=CC=CC=C1)C | C7H8
product | monostearin | 123.5 grams, 86% | CCCCCCCCCCCCCCCCCC(=O)OCC(CO)O | C21H42O4
